US07816522B2
To a solution of 3.2 g of 3-hydroxy-4,5-dimethoxybenzaldehyde in 50 ml of DMF there were added 1.49 g of imidazole and 4.5 ml of chlorotriisopropylsilane. The mixture was stirred at room temperature for 21 hours and 30 minutes. Water was added to the reaction mixture and extraction was performed with ethyl acetate. The organic layer was washed with ice-cooled 1N hydrochloric acid, water, saturated aqueous sodium hydrogencarbonate, water and saturated brine in that order, and dried over anhydrous magnesium sulfate. The desiccating agent was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate-heptane) to give 3,4-dimethoxy-5-triisopropylsilanyloxybenzaldehyde (6.08 g) as a light yellow oil.

reactant | 3-hydroxy-4,5-dimethoxybenzaldehyde | 3.2 g | OC=1C=C(C=O)C=C(C1OC)OC | C9H10O4
reactant | imidazole | 1.49 g | N1C=NC=C1 | C3H4N2
reactant | chlorotriisopropylsilane | 4.5 ml | Cl[Si](C(C)C)(C(C)C)C(C)C | C9H21ClSi
reactant | Water | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3,4-dimethoxy-5-triisopropylsilanyloxybenzaldehyde | 6.08 g | COC=1C=C(C=O)C=C(C1OC)O[Si](C(C)C)(C(C)C)C(C)C | C18H30O4Si
